US09120777B2
J) 1-(1-(4-Cyclobutyl-5-cyclopropyl-2-ethoxybenzyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylic acid
A mixture of methyl 1-(1-(4-cyclobutyl-5-cyclopropyl-2-ethoxybenzyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylate (567 mg), a 1 M aqueous sodium hydroxide solution (3 mL), and ethanol (3 mL) was stirred at 70 C for 2 hours. The reaction mixture was pH-adjusted to 4 using 1 M hydrochloric acid and stirred at room temperature for 30 minutes. The resulting solid was collected by filtration and recrystallized (DMSO/ethanol) to obtain the title compound (358 mg).

reactant | methyl 1-(1-(4-cyclobutyl-5-cyclopropyl-2-ethoxybenzyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylate | 567 mg | C1(CCC1)C1=CC(=C(CN2CCC(CC2)N2C(C=C(C=C2)C(=O)OC)=O)C=C1C1CC1)OCC | C28H36N2O4
reactant | sodium hydroxide | 1 M, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 1-(1-(4-Cyclobutyl-5-cyclopropyl-2-ethoxybenzyl)piperidin-4-yl)-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 358 mg | C1(CCC1)C1=CC(=C(CN2CCC(CC2)N2C(C=C(C=C2)C(=O)O)=O)C=C1C1CC1)OCC | C27H34N2O4
